US04440927
Preparation of 4(R)-Benzyloxy-6(S)-[2-(2,4-dichlorophenyl)ethyl]-2(R)-methoxy-3,4,5,6-tetrahydro-2H-pyran
To a mixture of 1-(2,4-dichlorophenyl)-2-(4(R)-benzyloxy-2(R)-methoxy-3,4,5,6-tetrahydro-2H-pyran-6(S)-yl)ethyl phenyl sulfone (0.06 g, 0.11 mmole) and anhydrous disodium phosphate (0.065 g, 0.45 mmoles) in dry methanol (5 ml) was added pulverized 5% sodium amalgam (0.2 g). The mixture was stirred at room temperature for twenty hours, during which time an additional 0.4 g of 5% sodium amalgam was added in three portions. The reaction mixture was poured into water and extracted with ether. The ether solution was dried (MgSO4), filtered, and the solvent evaporated in vacuo to give the title compound as a colorless viscous oil (0.04 g); 'H NMR (CDCl3) δ 1.53 (1H, ddd), 1.58-1.88 (4H, m), 2.06 (1H, m), 2.70 (1H, ddd), 2.95 (1H, ddd), 3.42 (3H, s), 3.76 (1H, p), 4.16 (1H, d), 4.52 (1H, d), 4.65 (1H, d), 4.78 (1H, dd), 7.13-7.40 (8H, m).

reactant | 1-(2,4-dichlorophenyl)-2-(4(R)-benzyloxy-2(R)-methoxy-3,4,5,6-tetrahydro-2H-pyran-6(S)-yl)ethyl phenyl sulfone | 0.11 mmole, 0.06 g | C1(=CC=CC=C1)S(=O)(=O)C(C[C@@H]1C[C@H](C[C@@H](O1)OC)OCC1=CC=CC=C1)C1=C(C=C(C=C1)Cl)Cl | C27H28Cl2O5S
reactant | disodium phosphate | 0.45 mmoles, 0.065 g | P(=O)([O-])([O-])O.[Na+].[Na+]
reactant | water | O | H2O
solvent | methanol | 5 ml | CO | CH4O
catalyst | sodium amalgam | 0.2 g | [Na].[Hg]
catalyst | sodium amalgam | 0.4 g | [Na].[Hg]
product | 4(R)-Benzyloxy-6(S)-[2-(2,4-dichlorophenyl)ethyl]-2(R)-methoxy-3,4,5,6-tetrahydro-2H-pyran | 0.04 g | C(C1=CC=CC=C1)O[C@H]1C[C@@H](O[C@H](C1)CCC1=C(C=C(C=C1)Cl)Cl)OC | C21H24Cl2O3
